US06194447B1
1-(2-Methoxy-5-(trifluoromethyl)phenyl)-3-(3-(trifluoromethyl)phenyl)guanidine (Compound 3a).
A mixture of 3-cyanamidobenzotrifluoride (0.40 g, 2.15 mmol), 2-methoxy-5-triflouromethylaniline hydrochloric acid salt (0.53 g, 2.33 mmol) and acetonitrile (20 ml) was stirred at reflux for 40 h. The solvent was evaporated. Dichloromethane (50 ml) was added and the mixture was washed with saturated aqueous sodium hydrogen carbonate (50 ml). The organic phase was purified by chromatography using silica gel and a mixture of methanol (10%) and dichloromethane as eluent. The product was isolated as the free base. Yield 0.40 g, 49%. M.p. 45-47° C.

reactant | 3-cyanamidobenzotrifluoride | 2.15 mmol, 0.40 g | N(C#N)C=1C=C(C=CC1)C(F)(F)F | C8H5F3N2
reactant | 2-methoxy-5-triflouromethylaniline hydrochloric acid salt | 2.33 mmol, 0.53 g | Cl.COC1=C(N)C=C(C=C1)C(F)(F)F
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-(2-Methoxy-5-(trifluoromethyl)phenyl)-3-(3-(trifluoromethyl)phenyl)guanidine | COC1=C(C=C(C=C1)C(F)(F)F)NC(=N)NC1=CC(=CC=C1)C(F)(F)F | C16H13F6N3O
